US04229438
Production of pGlu-Ala-Lys-Ser-Gln-(D)-Leu-Gly-Ser-Asn-OH
In 8 ml of trifluoroacetic acid is dissolved 200 mg of pGlu-Ala-Lys(Boc)-Ser-Gln-(D)-Leu-Gly-Ser-Asn-OBut and the solution is allowed to stand at room temperature for 60 minutes. The trifluoroacetic acid is distilled off under reduced pressure and the residue is precipitated with ether and recovered by filtration. The powders thus obtained are dissolved in a small amount of water and passed through a column of Amberlite IRA-410 (acetate-form) (1.5×7 cm). The effluent is combined with washings and lyophilized. The powdery lyophilizate is dissolved in a small amount of 1 N-acetic acid and put onto a chromatographic column of Sephadex LH-20(2.5×125 cm), elution being carried out with 1 N-acetic acid. The fractions from 190-205 ml are pooled and lyophilized. Yield 65 mg; [α]D22 -45.4° (c=0.4, H2O); Rf4 (Avicel)=0.37; amino acid analysis (acid hydrolyzate): Lys, 1.04(1); Asp, 0.98(1); Ser, 1.86 (2); Glu, 2.14(2); Gly, 0.93(1); Ala, 1.00(1); Leu, 1.00 (1); average recovery, 71.2%.

reactant | pGlu-Ala-Lys(Boc)-Ser-Gln-(D)-Leu-Gly-Ser-Asn-OBut | 200 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C46H78N12O17
reactant | acetate | C(C)(=O)[O-]
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | pGlu-Ala-Lys-Ser-Gln-(D)-Leu-Gly-Ser-Asn-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C37H62N12O15
